US06610846B1
A solution of 2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazole-5-carboxylic acid (100 mg, 0.24 mmol) in dry tetrahydrofuran (3 mL) under argon was treated with N-methylmorpholine (0.04 mL, 0.36 mmol) followed by iso-butylchloroformate (50 μL, 0.36 mmol). The reaction was stirred at 25° C. for 2 h, after which time, a concentrated aqueous ammonium hydroxide solution (0.2 mL) was added. The resulting reaction mixture was stirred at 25° C. for 2 h. The reaction mixture was then treated with water (5 mL), and the tetrahydrofuran was concentrated in vacuo. The product was then extracted with ethyl acetate (3×10 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 9/1 chloroform/methanol) afforded 2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazole-5-carboxylic acid amide (68 mg, 67%) as a white solid: mp 155-160° C.; EI-HRMS m/e calcd for C19H23N3O4S2 (M+) 421.1130, found 421.1135.

reactant | 2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazole-5-carboxylic acid | 0.24 mmol, 100 mg | C1(CCCC1)CC(C(=O)NC=1SC(=CN1)C(=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C19H22N2O5S2
reactant | N-methylmorpholine | 0.36 mmol, 0.04 mL | CN1CCOCC1 | C5H11NO
reactant | iso-butylchloroformate | 0.36 mmol, 50 μL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonium hydroxide | 0.2 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazole-5-carboxylic acid amide | 68 mg, 67% | C1(CCCC1)CC(C(=O)NC=1SC(=CN1)C(=O)N)C1=CC=C(C=C1)S(=O)(=O)C | C19H23N3O4S2
